US07897607B2
1-Benzyl-5-mesitylquinolin-4(1H)-one
1-Benzyl-5-bromoquinolin-4(1H)-one (1.52 g, 4.84 mmol), 2,4,6-trimethylphenylboronic acid (1.19 g, 7.26 mmol), 2,8,9-trisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane (0.331 g, 0.97 mmol), Pd(OAc)2 (0.11 g, 0.48 mmol), and cesium carbonate (3.15 g, 9.68 mmol) were diluted in 25 mL of toluene and stirred for 3 hr. at 80° C. The solution was cooled and concentrated. Flash chromatography of the residue (50-75% Ethyl acetate/hexanes) gave the title compound as a white solid (0.52 g, 30%).

reactant | 1-Benzyl-5-bromoquinolin-4(1H)-one | 4.84 mmol, 1.52 g | C(C1=CC=CC=C1)N1C=CC(C2=C(C=CC=C12)Br)=O | C16H12BrNO
reactant | 2,4,6-trimethylphenylboronic acid | 7.26 mmol, 1.19 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | cesium carbonate | 9.68 mmol, 3.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.48 mmol, 0.11 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-Benzyl-5-mesitylquinolin-4(1H)-one | 0.52 g, 30% | C(C1=CC=CC=C1)N1C=CC(C2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)=O | C25H23NO
